US06407101B1
tert-butyl[2-cyano-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrol-1-yl]acetate
5-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrol-2-carbonitrile (5.4 g, 20 mmol) and tert-butylbromoacetate (4.64 g, 22 mmol) were reacted, according to General Method A, to afford the title compound, m.p. 188-190° C. (3 g, 40%). 1H-NMR (DMSO-d6) δ1.35 (s, 9H), 1.62 (s, 6H), 4.8 (s, 2H), 6.35 (d, J=4.3 Hz, 1H), 6.98 (d, J=8.1 Hz, 1H), 7.09 (d, J=4.3 Hz, 1H), 7.26 (m, 2H), 10.42 (s, 1H), MS (APCI (−)) m/z 380 (M−H)−

reactant | 5-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrol-2-carbonitrile | 20 mmol, 5.4 g | CC1(OC(NC2=C1C=C(C=C2)C2=CC=C(N2)C#N)=O)C | C15H13N3O2
reactant | tert-butylbromoacetate | 22 mmol, 4.64 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
product | tert-butyl[2-cyano-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrol-1-yl]acetate | C(C)(C)(C)OC(CN1C(=CC=C1C=1C=CC2=C(C(OC(N2)=O)(C)C)C1)C#N)=O | C21H23N3O4
